US08232390B2
Step 4: methyl 1-(2-amino-3-methoxy-3-oxopropyl)-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate
To a solution of methyl 1-{2-[bis(tert-butoxycarbonyl)amino]-3-methoxy-3-oxopropyl}-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate in DCM (0.05 M) a large excess (>100 eq) of TFA was added and the solution stirred at RT for 20 min. Volatiles were removed in vacuo and the residue partitioned between EtOAc and aqueous NaHCO3. The organic phase was washed with brine before being dried over Na2SO4, filtered and the solvent evaporated in vacuo to afford the title compound (quant). MS (ES+) m/z 463 (M+H)+.

reactant | methyl 1-{2-[bis(tert-butoxycarbonyl)amino]-3-methoxy-3-oxopropyl}-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate | C(C)(C)(C)OC(=O)N(C(CN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)C=O)C(=O)OC)C(=O)OC(C)(C)C | C37H46N2O9
reactant | TFA | >100 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.05 M | C(Cl)Cl | CH2Cl2
product | methyl 1-(2-amino-3-methoxy-3-oxopropyl)-3-cyclohexyl-2-(2-formylphenyl)-1H-indole-6-carboxylate | NC(CN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)C=O)C(=O)OC | C27H30N2O5
